US04994482
A stirred mixture of potassium cyanide (0.4 g, 6.1 mmol), 1-(8-bromooctyl)-3,4,5-triphenyl-lH-pyrazole (2.70 g, 5.5 mmol) and DMF (30 mL was heated at 70° C. under an atmosphere of nitrogen. After 58 hours, the reaction mixture was diluted with water and extracted with dichloromethane (3 x). The combined extracts were washed with water, saturated sodium chloride solution, dried over sodium sulfate and concentrated to leave an oil. Chromatography on a column of silica gel using a mixture ethyl acetate, hexane and triethylamine (20:79:1) as eluent gave 3,4,5-triphenyl-lH-pyrazole-1-nonanenitrile hemihydrate (1.27 g, 52%) as a beige solid. An analytical sample, recrystallized from a mixture of dichloromethane and hexane, had m.p.=79.5°-80.5° C. MS(CI): m/e =434 (MH+).

reactant | potassium cyanide | 6.1 mmol, 0.4 g | [C-]#N.[K+]
reactant | 1-(8-bromooctyl)-3,4,5-triphenyl-lH-pyrazole | 5.5 mmol, 2.70 g | BrCCCCCCCCN1N=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H31BrN2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | CCCCCC | C6H14
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3,4,5-triphenyl-lH-pyrazole-1-nonanenitrile hemihydrate | 1.27 g, 52% | O.C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC#N.C1(=CC=CC=C1)C1=NN(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC#N | InChI=1S/2C30H31N3.H2O/c2*31-23-15-4-2-1-3-5-16-24-33-30(27-21-13-8-14-22-27)28(25-17-9-6-10-18-25)29(32-33)26-19-11-7-12-20-26;/h2*6-14,17-22H,1-5,15-16,24H2;1H2
